### PR TITLE
chore: minimize imports

### PR DESCRIPTION
**Pull request by seewoo5**
Try to avoid `import Mathlib`

### CODE REVIEW

File: SpherePacking/ModularForms/Delta.lean [hunk 1]
```diff
@@ -454,3 +451,5 @@ theorem CuspForm_div_Discriminant_Add (k : ℤ) (x y : CuspForm (CongruenceSubgr
   ext z
   simp only [CuspForm_div_Discriminant_apply, CuspForm.add_apply, ModularForm.add_apply]
   ring
+
+#min_imports
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Delta.lean]: Let's remove this before merge

File: SpherePacking/ModularForms/E2.lean [hunk 2]
```diff
@@ -852,3 +851,4 @@ lemma E₂_eq (z : UpperHalfPlane) : E₂ z =
       have ht := tsum_eq_tsum_sigma z
       simp at *
       rw [ht]
+#min_imports
```
Comment (b-mehta) [inline SpherePacking/ModularForms/E2.lean]:
```suggestion

```

File: SpherePacking/ModularForms/multipliable_lems.lean [hunk 3]
```diff
@@ -145,3 +143,5 @@ theorem one_le_tprod_nonneg (g : ℕ → ℝ) (h : ∀ i, g i ≤ 1) (h0 : ∀ i
   by_cases hg : Multipliable g
   · apply hg.hasProd.le_one_nonneg g h h0
   · rw [tprod_eq_one_of_not_multipliable hg]
+
+#min_imports
```
Comment (b-mehta) [inline SpherePacking/ModularForms/multipliable_lems.lean]:
```suggestion
```
